US07427612B2
(b) 4-(2-Trifluoromethyl-pyrimidin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester
0.26 mmol 5-Chloro-2-trifluoromethyl-pyrimidine was added to 0.26 mmol piperazine-1-carboxylic acid tert-butyl ester in 1.5 ml dimethylacetamide and the reaction mixture was stirred at 150° C. for 10 min. in a microwave oven. After such time the reaction mixture was concentrated and the residue was then purified by column chromatography (SiO2, Heptane/EtOAc) to yield the title compound. MS (m/e): 333.2 (M+H+, 100%)

reactant | 5-Chloro-2-trifluoromethyl-pyrimidine | 0.26 mmol | ClC=1C=NC(=NC1)C(F)(F)F | C5H2ClF3N2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 0.26 mmol | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | dimethylacetamide | 1.5 ml | CC(=O)N(C)C | C4H9NO
product | 4-(2-Trifluoromethyl-pyrimidin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=NC1)C(F)(F)F | C14H19F3N4O2
